US05688791
Synthesis of 9-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-2,3,4,9-tetrahydroisothiazolo-[5,4-b]quinolin-3,4-dione
The same reaction as in Example 1 was carried out by using mg (1.44 mmole) of 9-ethyl-6,7-difluoro-8-difluoromethoxy-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinolin-3,4-dione and 1.9 g (11.5 mmole) of 1-(2-pyrimidinyl)piperazine to obtain 10 mg of the title compound as pale yellow powder.

reactant | 9-ethyl-6,7-difluoro-8-difluoromethoxy-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinolin-3,4-dione | 1.44 mmole | C(C)N1C2=C(C(C3=CC(=C(C(=C13)OC(F)F)F)F)=O)C(NS2)=O | C13H8F4N2O3S
reactant | 1-(2-pyrimidinyl)piperazine | 11.5 mmole, 1.9 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 9-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-2,3,4,9-tetrahydroisothiazolo-[5,4-b]quinolin-3,4-dione | 10 mg | C(C)N1C2=C(C(C3=CC(=C(C(=C13)OC(F)F)N1CCN(CC1)C1=NC=CC=N1)F)=O)C(NS2)=O | C21H19F3N6O3S
